US05175297
1 g of α,α-di(2,8-bis(trifluoro-methyl)-4-quinolyl)-pyridine-2-methanol-acetate is dissolved in 10 ml of anhydrous methanol and to the solution 0.1 ml of 5 mole methanolic sodium methylate is added at room temperature under nitrogen streem. The mixture is allowed to stand overnight and is neutralized with glacial acetic acid, evaporated in vacuo and the residue is crystallized from a mixture of hexane and chloroform by hot clarification. The obtained product is filtered and 0.74 g of α,α-di(2,8-bis(trifluoro-methyl)-4-quinolyl)-pyridine-2-methanol is obtained. Yield: 78.9%.

reactant | α,α-di(2,8-bis(trifluoro-methyl)-4-quinolyl)-pyridine-2-methanol acetate | 1 g | FC(C1=NC2=C(C=CC=C2C(=C1)C(O)(C1=NC=CC=C1)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F)C(F)(F)F)(F)F.C(C)(=O)[O-]
reactant | sodium methylate | 5 mole, 0.1 ml | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | α,α-di(2,8-bis(trifluoro-methyl)-4-quinolyl)-pyridine-2-methanol | 0.74 g, Yield: 78.9% | FC(C1=NC2=C(C=CC=C2C(=C1)C(O)(C1=NC=CC=C1)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F)C(F)(F)F)(F)F | C28H13F12N3O
